US06784167B2
To a solution of 4-(2-thienyl)phenol in anhyd. THF (10 mL) was added Et3N (0.9 mL, 6.5 mmol), followed by TMSCl (0.4 mL, 3.2 mmol). The reaction mixture was stirred at room temperature overnight, then filtered and concentrated under reduced pressure to give 2-(4-trimethylsilyloxyphenyl)thiophene: TLC (20% EtOAc/hex) Rf 0.69. This material was used without further purification.

reactant | 4-(2-thienyl)phenol | S1C(=CC=C1)C1=CC=C(C=C1)O | C10H8OS
reactant | Et3N | 6.5 mmol, 0.9 mL | CCN(CC)CC | C6H15N
reactant | TMSCl | 3.2 mmol, 0.4 mL | C[Si](C)(C)Cl | C3H9ClSi
solvent | THF | 10 mL | C1CCOC1 | C4H8O
product | 2-(4-trimethylsilyloxyphenyl)thiophene | C[Si](OC1=CC=C(C=C1)C=1SC=CC1)(C)C | C13H16OSSi
